US05231102
b) 4-Carboxy-5,7-dichloro-2-methoxycarbonylquinoline
2,4-Dicarboxy-5,7-dichloroquinoline was added to methanol (presaturated with dry hydrogen chloride) (500 ml) and the solution left at room temperature for 1 h. After this time the volume of solvent was reduced to approximately 100 ml and the white solid that precipitated was collected by filtration and dried in a vacuum oven at 100° C. (20 mm Hg) for 2 h to give the title compound (18.5 g, m.p. 260°-262° C.); δ (250 MHz, DMSO) 3.98 (3H, s, CH3), 8.11 (1H, s, 3-H), 8.15 (1H, d, J=2.1 Hz, 6-H or 8-H), 8.36 (1H, d, J=2.1 Hz, 6-H or 8-H); m/e 299 (M+) 241 (100%, M-CO2CH3 +H); Found: C, 47.58; H, 2.42; N, 4.62. C12H7Cl2NO4. 0.2 H2O requires C, 47.46; H, 2.46; N, 4.61%.

reactant | 2,4-Dicarboxy-5,7-dichloroquinoline | C(=O)(O)C1=NC2=CC(=CC(=C2C(=C1)C(=O)O)Cl)Cl | C11H5Cl2NO4
reactant | methanol | 500 ml | CO | CH4O
product | 4-Carboxy-5,7-dichloro-2-methoxycarbonylquinoline | 18.5 g | C(=O)(O)C1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC | C12H7Cl2NO4
